US04072674
A solution of 1.6 g (8.85 mmol) of 3-bromo-2-ketobutyric acid and 7 g (4 equivalents) of O-t-butyl-N,N'-diisopropylpseudourea in 14 ml methylene chloride is stirred overnight at room temperature. After filtration, the solution is washed with NaHCO3 and brine, dried and evaporated to an oil which is chromatographed on silica gel with benzene as eluant to give 1 g (45%) of t-butyl 3-bromo-2-ketobutyrate.

reactant | 3-bromo-2-ketobutyric acid | 8.85 mmol, 1.6 g | BrC(C(C(=O)O)=O)C | C4H5BrO3
reactant | O-t-butyl-N,N'-diisopropylpseudourea | 7 g, 4 equivalents | C(C)(C)(C)OC(NC(C)C)=NC(C)C | C11H24N2O
solvent | methylene chloride | 14 ml | C(Cl)Cl | CH2Cl2
product | t-butyl 3-bromo-2-ketobutyrate | 1 g, 45% | BrC(C(C(=O)OC(C)(C)C)=O)C | C8H13BrO3
